Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with hypertension, hypothyroidism, and no prior CHF history 
intially presented to ___ with dyspnea at rest for 1 day. She 
was found to have CHF exacerbation with proBNP 4000 and SBP 200. 
UA at ___ with many bacteria, nitrite positive and she had 
lactate 4.2. She was given ceftriaxone, aspirin 81mg, Lasix 80mg 
IV, and started on NTG drip. She was transferred from ___ on 
BiPAP and transitioned to CPAP by EMS. Both BiPAP/CPAP and NTG 
drip were discontinued on arrival to ___.  
In the ED, initial vitals were 97.6 60 ___ 99%. She was on 
3L NC satting well, no respiratory distress and unlabored 
breathing. Foley from OSH draining clear yellow urine. Labs here 
notable for BNP 4357, lactate 2.1, troponin 0.08->0.06, and Cr 
1.0. EKG without acute findings. In the ED, she was given 
ceftriaxone 1g IV, HCTZ 12.5mg, and lisinopril 10mg.  
On the floor, patient is feeling much better without acute 
complaints. She reports she had a blood clot diagnosed in her 
LLE several weeks prior. She was not started on treatment but 
asked to elevate her legs. 
 
Past Medical History:
PMH:  
-Hypertension  
-Hypothyroidism  
-Osteoporosis  
-Hearing loss  
 
Social History:
___
Family History:
Father with heart problems. Brother with prostate cancer. 
 
Physical Exam:
ADMISSION PHYSICAL:
VS: T97.5 148/63 68 16 100% on 4L NC, 46.9kg  
GENERAL: Elderly woman, hard of hearing, no acute distress  
HEENT: anicteric sclera, MMM  
NECK: JVP elevated to 12 cm  
HEART: RRR, normal S1/S2, no murmurs, gallops, or rubs  
LUNG: Bibasilar rales R>L halfway up lung, no wheezing, 
unlabored and easy breathing  
ABD: nondistended, +BS, nontender, no rebound/guarding  
EXT: 2+ pitting edema in ___ up calves, LLE slightly pink and 
tender to touch, calves are symmetric size, L foot slightly 
cool, R warm  
PULSES: nonpalpable, but DP and ___ have strong Dopplers 
bilaterally  
NEURO: alert and oriented 

DISCHARGE PHYSICAL:
98.8 128/50-163/49  ___ RA
W: 44.4  I/O: 1041/2360
GEN: NAD, breathing comfortably on 3L NC
HEENT: conjunctiva pink, sclera anicteric
NECK: supple, from, no LAD, JVP <8cm
CV: rrr, no m/r/g, nml s1/s2
LUNG: faint crackles b/l in both 
ABD: benign
EXT: wwp, 1+ pitting edema to shins b/l
NEURO: grossly intact
 
Pertinent Results:
ADMISSION LABS
___ 09:00AM BLOOD Glucose-113* UreaN-26* Creat-1.0 Na-143 
K-3.7 Cl-105 HCO3-24 AnGap-18
___ 09:00AM BLOOD proBNP-4357*
___ 09:00AM BLOOD cTropnT-0.08*
___ 04:25PM BLOOD cTropnT-0.06*
___ 07:20AM BLOOD CK-MB-2 cTropnT-0.04*
___ 09:07AM BLOOD Lactate-2.1*
___ 08:17AM BLOOD Lactate-1.8

DISCHARGE LABS
___ 07:25AM BLOOD WBC-4.7 RBC-3.25* Hgb-9.0* Hct-28.5* 
MCV-88 MCH-27.8 MCHC-31.7 RDW-15.6* Plt ___
___ 07:25AM BLOOD Plt ___
___ 07:25AM BLOOD ___ PTT-29.6 ___
___ 07:25AM BLOOD Glucose-86 UreaN-45* Creat-1.1 Na-140 
K-3.7 Cl-102 HCO3-29 AnGap-13
___ 07:25AM BLOOD Calcium-8.7 Phos-3.5 Mg-1.7

TTE: 
Conclusions  
The left atrium is elongated. The left atrial volume index is 
severely increased. The estimated right atrial pressure is ___ 
mmHg. Normal left ventricular wall thickness, cavity size, and 
regional/global systolic function (biplane LVEF = 65 %). Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. 
Moderate (2+) aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Moderate (2+) mitral regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. Significant 
pulmonic regurgitation is seen. The end-diastolic pulmonic 
regurgitation velocity is increased suggesting pulmonary artery 
diastolic hypertension. There is a small pericardial effusion. 
The effusion is echo dense, consistent with blood, inflammation 
or other cellular elements. There is no echocardiographic 
evidence of tamponade. 

IMPRESSION: Normal biventricular cavity size and global/regional 
systolic function. Moderate aortic regurgitation. Moderate 
mitral regurgitation. Moderate pulmonary artery hypertension. 
Small, echodense circumferential pericardial effusion.   

___:
IMPRESSION:  
  
No evidence of deep venous thrombosis in the bilateral lower 
extremity veins. 

CXR
IMPRESSION:  
  
Low lung volumes. Moderate cardiomegaly. Signs of mild to 
moderate chronic interstitial edema, combined 9 by small 
bilateral pleural effusions and subsequent areas of atelectasis. 
 No evidence of pneumonia. Old healed rib fractures.  No 
pneumothorax. 

 
Brief Hospital Course:
___ with h/o HTN and hypothyroidism p/w DOE x1 day found to have 
elevated pro-BNP to 4000 and elevated lactate in the context of 
htn urgency with SBPs in 200s and UA grossly positive for 
infection leading to flash pulmonary edema. 

ACTIVE ISSUES:

#acute dCHF: The pt presented with dyspnea, evidence of volume 
overload on exam most noteably for pulmonary edema and a CXR c/w 
acute CHF. An ECHO showed preserved ventricular function 
(LVEF>65%) thereby qualifying this as dCHF. It was likely 
precipitated by htn urgency with a component of demand from her 
UTI. She was given lasix 40 mg IV x1 and diuresed very well 
(~2L). She had subsequent decreases in her O2 requirement and 
she was weaned to room air. Her lisinopril was increased to 20 
mg PO BID. Discharged on 20 mg PO lasix and supplemental Mg, 
with d/c weight of 44.4 kg.

#HTN Urgency: upon presentation at the OSH, the pt had SBP in 
200s and was placed on a nitro gtt. Upon arrival to ___, her 
blood pressures were more stable and did not require a nitro 
gtt. Her lisinopril was increased to 20 mg PO BID. Home HCTZ was 
stopped.

#UTI: grossly positive UA at OSH and she was given 1 dose of 
ceftriaxone. Urine cultures speciated to E coli sensitive to 
ceftriaxone and bactrim. She was continued on ceftriaxone while 
she was an in patient and finished a 5d course.

#Anemia: Hb/Hct 8.7/27.3. Stable here, but at OSH was 10.3. No 
s/s of GIB, stool per nursing was not melanotic. This was 
trended here.

___: Cr up to 1.3 from baseline 1.0. In context of diuresis, 
likely pre-renal. Resolved prior to d/c.

CHRONIC ISSUES:

#Hypothyroidism: continued on home levothyroxine

TRANSITIONAL ISSUES:
-Blood Pressure: ensure pt is adequately treated as her 
hypertensive urgency likely precipitated her flash pulmonary 
edema.
TRANSITIONAL ISSUES:
-Blood Pressure: ensure pt is adequately treated as her 
hypertensive urgency likely precipitated her flash pulmonary 
edema
-Needs electrolyte monitoring, next check should be on ___
-D/c'd on supplemental Mg
-Continue to assess volume status with daily weights, need for 
lasix titration; discharged on 20 mg PO lasix 
-Can start 5 mg of amlodipine if blood pressures are sustained 
greater than 150 mm Hg
-Lisinopril dose increased, HCTZ stopped

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. alendronate 35 mg oral QWEEKLY 
3. Lisinopril 10 mg PO BID 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. Levothyroxine Sodium 150 mcg PO DAILY 
6. Gabapentin 100 mg PO QHS 
7. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
8. Vitamin B Complex 1 CAP PO DAILY 
9. Calcium with Vitamin D (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Gabapentin 100 mg PO QHS 
3. Levothyroxine Sodium 150 mcg PO DAILY 
4. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
5. alendronate 35 mg oral QWEEKLY 
6. Calcium with Vitamin D (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
7. Vitamin B Complex 1 CAP PO DAILY 
8. Lisinopril 20 mg PO BID 
9. Furosemide 20 mg PO DAILY 
10. Magnesium Oxide 400 mg PO DAILY 
do not take within two hours of levothyroxine or alendronate 
11. Docusate Sodium 100 mg PO DAILY:PRN constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
ACTIVE ISSUES:
#Hypertensive Urgency
#Acute dCHF exacerbation
#UTI
___

CHRONIC:
#hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were transferred from an outside hospital to ___ because 
you were found to have extremely high blood pressures and fluid 
in your lungs causing your shortness of breath. You were also 
found to have a urinary tract infection. You were treated with a 
medication to lower your blood pressure, and another medication 
to remove fluid from your lungs. You were given a course of 
antibiotics to treat your UTI. 

An ultrasound of your heart called a echocardiogram revealed 
your heart is function is normal. 

All the best for a speedy recovery!

Sincerely,
___ Treatment Team 
 
Followup Instructions:
___